US04173478
Preparation of 2-hydroxy-N-(4-hydroxy-6-methyl-1,3,3a,7-tetraazainden-5-yl)-5-(4-methoxyphenylazo)benzamide (Dye 12)
5-Amino-4-hydroxy-6-methyltetraazaindene (0.5 g) was dissolved in dry N,N-dimethylformamide (10 ml) and dimethylaniline (0.37 g) added. 5-(4-Methoxyphenylazo)salicoyl chloride (0.88 g) was added portionwise at room temperature with stirring. After 12 hours the mixture was poured into iced dilute hydrochloric acid and the crude product collected, washed with water and dried. The material was extracted with a large volume of ether and crystallized in aqueous ethanol as the monohydrate (0.8 g, 61%), m.p. 323°-324° decomp., λmax (methanol)=354 nm.

reactant | 5-Amino-4-hydroxy-6-methyltetraazaindene | 0.5 g | NC=1C(=C2N=NNC2=NC1C)O | C6H7N5O
reactant | dimethylaniline | 0.37 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | 0.88 g | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-hydroxy-N-(4-hydroxy-6-methyl-1,3,3a,7-tetraazainden-5-yl)-5-(4-methoxyphenylazo)benzamide | OC1=C(C(=O)NC2=C(N3N=CN=C3N=C2C)O)C=C(C=C1)N=NC1=CC=C(C=C1)OC | C20H17N7O4
